US07582775B2
E. 6-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid
A solution of 6-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester (0.89 g, 1.86 mmol) in MeOH (5.0 mL) and THF (5.0 mL) and is treated with NaOH (2.0 M, 10.0 mL). The resulting mixture is stirred at RT for 2 h. The mixture is concentrated, acidified with HCl (1 N) until pH˜3, and extracted with EtOAc (2×50 mL). The organic layer is dried over Na2SO4, concentrated, and purified using silica gel column chromatography (50% EtOAc/Hex) to afford the title compound (840 mg, 99%).

reactant | 6-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester | 1.86 mmol, 0.89 g | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C | C29H36O4S
reactant | NaOH | 2.0 M, 10.0 mL | [OH-].[Na+]
solvent | MeOH | 5.0 mL | CO | CH4O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 6-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid | 840 mg, 99% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(SC(=C2)C(=O)O)C1)C)=O)(C)C | C27H32O4S
